US05446040
Example P-1:1.3 g of 2-(1-aminopropyl)-1,2,3,4-tetrahydro-quinoline, 1.4 g of 4,5-dichloro-6-ethylpyrimidine and 0.85 g of triethylamine in 60 ml of absolute isopropanol are placed in a sulfonation flask at room temperature. The internal temperature of the flask is increased to 80° C. and the reaction mixture is stirred under reflux for 12 hours. The solvent is then removed under a water-jet vacuum, the residue is taken up in a mixture of 200 ml of ethyl acetate and 70 ml of water andthe mixture is shaken well. The organic phase is removed and the aqueous phase is further extracted twice, each time with 100 ml of ethyl acetate. The organic phase is dried over Na2SO4 and the solvent is removed under a water-jet vacuum. The crude product which remains can thenbe further purified by flash chromatography on silica gel (eluant: ethyl acetate/n-hexane 1:3) to yield 1.6 g of 2-[1-(5-chloro-6-ethylpyrimidin-4-ylamino)propyl]-1,2,3,4-tetrahydro-quinoline in the form of a red oil (nD50 =1.5822).

reactant | 2-(1-aminopropyl)-1,2,3,4-tetrahydro-quinoline | 1.3 g | NC(CC)C1NC2=CC=CC=C2CC1 | C12H18N2
reactant | 4,5-dichloro-6-ethylpyrimidine | 1.4 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | triethylamine | 0.85 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
product | 2-[1-(5-chloro-6-ethylpyrimidin-4-ylamino)propyl]-1,2,3,4-tetrahydro-quinoline | 1.6 g | ClC=1C(=NC=NC1CC)NC(CC)C1NC2=CC=CC=C2CC1 | C18H23ClN4
